Name:  ___     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Dapsone / methotrexate
 
Attending: ___
 
Chief Complaint:
Routine Chemotherapy
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
History obtained via review of OMR and in-person ___
interpreter. 

___ with HIV on HAART and CNS lymphoma on maintenance HD-MTX
(last dose ___ who presents for admission for routine
chemotherapy.

His most recent HD-MTX was over a year ago on ___. The
therapy was well tolerated. His admission was complicated by a
UTI treated with cipro in addition to folliculitis. 

He has been followed by Dr. ___ orthopedics for his known
bilateral osteonecrosis of both hips. His treatment plan 
includes
observation without surgical intervention. In addition he has
been seen by Dr. ___ his ___ sarcoma. He has had
resolution of his lesion and has no visceral involvement on
imaging. His treatment plan includes yearly observation. 

His Port was also removed on ___. 

The patient had an episode of back itching a few days ago. He
went to ___ where he was evaluated and told to have a drug
reaction due to his lisinopril which he has stopped taking. He 
is
unsure if this is due to his lisinopril as he had a similar
sensation after eating spicy meat. He has no throat swelling or
difficulty breathing. 

He feels well and is without complaints. He has no fevers or
chills. No chest pain, dyspnea or palpitations. No abd pain. No
n/v/d. No dysuria. 

ROS: 10 point review of systems discussed with patient and
negative unless noted above

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
His neurological problem began at the end of ___ when
he experienced imbalance and blurry vision.  Initially, his gait
imbalance was intermittent, mostly occuring after eating and
lasting for a couple of hours.  However, it progressed to a
constant fashion.  He also developed blurry vision and he had to
close one eye in order to see clearly.  On ___, his
imbalance was severe enough that his brother, ___, took him to ___.  He had a head
CT that showed a mass at the brainstem.  He was referred to see
Dr. ___ on ___ who admitted him to the
Neurosurgery Service.  A gadolinium-enhanced head MRI on 
___
showed a homogeneously enhancing mass at the lateral recess on
the right side of the fourth ventricle.  He then underwent a
stereotaxic biopsy of the mass by Dr. ___ on
___.  After biopsy he remains neurologically stable.  He
then started high-dose methotrexate on ___.
(1) stereotaxic biopsy of the mass by Dr. ___ on
___,
(2) an echocardiogram that was performed on ___ showing
apical hypokinesis but his ejection fraction remained at 55%,
(3) started high-dose methotrexate on ___ and had 5
induction cycles so far,
(4) started re-induction high-dose methtorexate on ___ and
had 3 cycles,
(5) started monthly maintenance high-dose methotrexate on
___ and had 4 cycles,
(6) started every 2-month maintenance high-dose methotrexate on
___ and had 3 cycles,
(7) gadolinium-enhanced head MRI from ___ showed no 
evidence
of active disease, 
(8) started every 3-month maintenance high-dose methotrexate on
___ and had 1 cycle,
(9) saw dermatology for penile lesion on ___ and biopsy
showed Kaposi sarcoma, and
(10) gadolinium-enhanced head MRI from ___ showed no
evidence of active disease.
(11) ___ HD-MTX 8g/m2 (planned)

 
PAST MEDICAL HISTORY: 
- HIV on HAART
- Kaposi sarcoma - solitary penile lesion, ___
- CNS lymphoma as above
- Right-sided opthalmic/V3 shingles
- Bilateral femoral head avascular necrosis 
- Thyroid nodule
- CAD/MI - Stent placed ___ NSTEMI ___ during HD-MTX
admission, DES to RCA and LAD
- Pancreatitis
- HTN
- HLD
- Hx of gastric ulcer
 
Social History:
___
Family History:
His parents are alive; his mother has pre-diabetes while his 
father has glaucoma and prostate cancer.  He has 6 brothers, one 

of the, has kidney problem.  He has 3 daughters and they are all 

healthy.    
 
Physical Exam:
ADMISSION
___ 1342 Temp: 98.5 PO BP: 114/73 HR: 68 RR: 18 O2 sat: 95% 

   
GENERAL:  NAD
HEENT:  Sclerae anicteric. PERRL. Moist mucous membranes, no 
oral
lesions
NECK:  Supple
LUNGS:  No increased WOB, CTAB. No wheezing, rhonchi or crackles
HEART:  RRR no MRG
ABD:  NTND No HSM, normal bowel sounds
EXT:  Warm, no edema 
SKIN:  blanching erythema on back
NEURO:  CN II-XII grossly intact. Strength ___ UE and ___ b/l
ACCESS:  PIV x2 L hand

DISCHARGE
24 HR Data (last updated ___ @ 831)
    Temp: 98.6 (Tm 98.6), BP: 108/69 (108-110/66-69), HR: 61
(59-61), RR: 18, O2 sat: 99% (99-100), O2 delivery: RA
Fluid Balance (last updated ___ @ 832)
  Last 8 hours  Total cumulative 700ml
    IN: Total 1700ml, PO Amt 120ml, IV Amt Infused 1580ml
    OUT:  Total 1000ml, Urine Amt 1000ml
  Last 24 hours  Total cumulative -653ml
    IN: Total 4522ml, PO Amt 120ml, IV Amt Infused 4402ml
    OUT:  Total 5175ml, Urine Amt 5175ml

GENERAL:  NAD
HEENT:  Sclerae anicteric. PERRL. Moist mucous membranes, no 
oral
lesions
NECK:  Supple
LUNGS:  No increased WOB, CTAB. No wheezing, rhonchi or crackles
HEART:  RRR no MRG
ABD:  NTND No HSM, normal bowel sounds
EXT:  Warm, no edema 
SKIN:  blanching erythema on back
NEURO:  CN II-XII grossly intact. Strength ___ UE and ___ b/l
ACCESS:  PIV x2 L hand
 
Pertinent Results:
ADMISSION
___ 02:09PM BLOOD WBC-10.9* RBC-5.02 Hgb-15.4 Hct-44.7 
MCV-89 MCH-30.7 MCHC-34.5 RDW-12.1 RDWSD-39.1 Plt ___
___ 02:09PM BLOOD Glucose-172* UreaN-20 Creat-1.0 Na-135 
K-4.5 Cl-100 HCO3-23 AnGap-12
___ 02:09PM BLOOD ALT-32 AST-22 AlkPhos-62 TotBili-0.2
___ 02:09PM BLOOD Albumin-4.1 Calcium-9.4 Phos-2.2* Mg-2.3

PERTINENT
___ 01:30AM BLOOD ALT-272* AST-174* AlkPhos-47 TotBili-0.4
___ 01:10AM BLOOD mthotrx-1.4*
___ 01:30AM BLOOD mthotrx-0.12

DISCHARGE
___ 01:30AM BLOOD WBC-4.5 RBC-4.49* Hgb-13.6* Hct-39.6* 
MCV-88 MCH-30.3 MCHC-34.3 RDW-12.3 RDWSD-39.6 Plt ___
___ 01:30AM BLOOD Glucose-205* UreaN-12 Creat-0.9 Na-142 
K-3.8 Cl-101 HCO3-28 AnGap-13
___ 01:30AM BLOOD ALT-272* AST-174* AlkPhos-47 TotBili-0.4
___ 01:30AM BLOOD Calcium-8.5 Phos-3.3 Mg-2.0

MICRO
None

IMAGING
None

___ 06:45AM BLOOD WBC-4.9 RBC-4.47* Hgb-13.5* Hct-40.7 
MCV-91 MCH-30.2 MCHC-33.2 RDW-12.1 RDWSD-40.7 Plt ___
___ 06:45AM BLOOD ALT-302* AST-133* AlkPhos-39* TotBili-0.6
___ 12:40AM BLOOD mthotrx-0.06
___ 09:19AM BLOOD mthotrx-0.11
___ 01:30AM BLOOD mthotrx-0.12
___ 01:10AM BLOOD mthotrx-1.4*
 
Brief Hospital Course:
___ with HIV on ART and CNS lymphoma on maintenance HD-MTX 
presents for planned chemotherapy.

# CNS Lymphoma:  Patient was admitted for maintenance HD-MTX. 
Recent MRI obtained 4 days prior to admission showed no signs of 
recurrent lymphoma. He was started on HD-MTX protocol per OMS 
order set. He received Benadryl pre-medication. His urine was 
alkalinized with sodium bicarbonate per protocol and he received 
leucovorin rescue per protocol. He MTX was <0.1 at time of 
discharge. His course was complicated by transaminitis which was 
seen on prior admissions. He will return in ___ year for repeat 
admission for HD-MTX. He will have a clinic visit with Dr. ___ 
___ MRI scheduled prior to admission on ___
 
# Transaminitis: Likely due to MTX. No abd pain. Has occurred in
past. Patient instructed to follow up with PCP to ensure 
resolution upon discharge

# Hyperglycemia:
Likely due to D5W from HCO3 gtt. Improved

# Hypophosphatemia:
- repleted

# HIV: Well controlled, followed at ___ home Stribild

# ___ sarcoma: Single isolated lesion, now resolved. No 
evidence of visceral involvement.

# CAD: Takes single agent ASA at home. Will hold in setting of
MTX. Used Plavix in house for antiplatelet effect while holding 
ASA. Continued on home metoprolol. Will restart aspirin and 
statin upon discharge.

# HTN: Con't home metoprolol. Patient was recently evaluated in 
the ED for concern of drug rash that was attributed to 
lisinopril. This was held while in house and discontinued as he 
had not been taking it. 

# HLD: Home statin was held while on MTX. Will resume at 
discharge

TRANSITIONAL ISSUES
[]f/u with PCP to recheck LFTs
[]will return for HD-MTX in ___ year ___

billing: >30 min spent coordinating care for discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 25 mg PO DAILY 
2. Stribild (elvitegr-cobicist-emtric-tenof) ___ mg 
oral qd 
3. Aspirin 81 mg PO DAILY 
4. Centrum Silver Ultra Mens (multivit-min-FA-lycopen-lutein) 
___ mcg oral DAILY 
5. Cyanocobalamin 1000 mcg PO DAILY 
6. Fish Oil (Omega 3) 1000 mg PO DAILY 
7. Pantoprazole 40 mg PO Q24H 
8. Pravastatin 80 mg PO QPM 
9. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Centrum Silver Ultra Mens (multivit-min-FA-lycopen-lutein) 
___ mcg oral DAILY  
3.  Cyanocobalamin 1000 mcg PO DAILY  
4.  Fish Oil (Omega 3) 1000 mg PO DAILY  
5.  Metoprolol Succinate XL 25 mg PO DAILY  
6.  Pantoprazole 40 mg PO Q24H  
7.  Pravastatin 80 mg PO QPM  
8.  Stribild (elvitegr-cobicist-emtric-tenof) ___ mg 
oral qd  
9.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CNS Lymphoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___. You were admitted for your scheduled HD-MTX 
chemotherapy. You tolerated the infusion well. Your next 
chemotherapy is scheduled for one year ___.

You should hear from Dr. ___ office in the next few days to 
schedule this. If you do not hear from them, please call Dr. 
___ office at ___ to help schedule this.

In addition, your liver numbers were slightly elevated due to 
the chemotherapy. Please make a follow up appointment with your 
PCP to have them rechecked to ensure they are going down in 1 
week. 

We wish you the best!

Your ___ Care team
 
Followup Instructions:
___